US07365196B2
Diethyl azodicarboxylate (1.07 g, 6.16 mmol) in DCM (5 ml) was added at a dropwise rate to a stirred solution of 2-hydroxy-11-oxo-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene (J. Org. Chem. 1982 4329, 829 mg, 4.10 mmol), triphenylphosphine (1.61 g, 6.16 mmol) and 4-(2-hydroxyethyl)morpholine (806 mg, 6.16 mmol) in DCM (45 ml). The mixture was stirred at room temperature for 2 hours and then concentrated to dryness. The crude product was purified by column chromatography on silica eluting with 40:1 DCM: 2M ammonia in methanol. The chromatographed material was taken up in the minimal volume of ethyl acetate and diluted with diethyl ether. 1M HCl in diethyl ether was added. The precipitate was filtered washing the solid with ethyl acetate and diethyl ether. The white solid was taken up in DCM and washed with 1M sodium hydroxide (aq). The organic phase was dried over sodium sulphate, filtered and concentrated to dryness to give 5-(2-morpholin-4-yl-ethoxy)-tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-one as a colourless oil 740 mg (57%).

reactant | Diethyl azodicarboxylate | 6.16 mmol, 1.07 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxy-11-oxo-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene | 4.10 mmol, 829 mg | OC=1C=CC2=C(CC3CCC(C2)C3=O)C1 | C13H14O2
reactant | triphenylphosphine | 6.16 mmol, 1.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)morpholine | 6.16 mmol, 806 mg | OCCN1CCOCC1 | C6H13NO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 45 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-morpholin-4-yl-ethoxy)-tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-one | 740 mg, 57% | N1(CCOCC1)CCOC1=CC=2CC3CCC(CC2C=C1)C3=O | C19H25NO3
